simulator lang=spectre
global 0
ahdl_include "cswitch.va"
v_in (A 0) vsource dc=1
x1 (A M) cswitch RON=1 g=1m
r_load (M 0) resistor r=1k
simulatorOptions options temp=27 tnom=27
dcOp dc annotate=status
save A M
saveOptions options save=selected
